US04415572
To a mixture of 1.2 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium bicarbonate and 20 ml of DMF was added 785 mg of 3,4-methylenedioxybenzyl chloride and the mixture was stirred at 80°-90° C. for 3.5 hours. The reaction mixture was poured into a large amount of saturated saline solution and extracted with chloroform. After washing with water the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography to give 0.2 g of 6-[4-(3,4-methylenedioxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | potassium bicarbonate | 1.17 g | C([O-])(O)=O.[K+]
reactant | 3,4-methylenedioxybenzyl chloride | 785 mg | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-[4-(3,4-methylenedioxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.2 g | C1OC=2C=C(CN3CCN(CC3)C=3C=C4CCC(NC4=CC3)=O)C=CC2O1 | C21H23N3O3
